US05280027
2,6,7-Trimethyl-3,4-dihydroquinazolin-4-one (European Patent Specification No. 0284338) was reacted with chloromethyl pivalate using the procedure described in European Patent Specification No. 0239362 for the corresponding reaction of 2,6-dimethyl-3,4-dihydroquinazolin-4-one. There was thus obtained 3-(pivaloyloxymethyl)-2,6,7-trimethyl-3,4-dihydroquinazolin-4-one. The product so obtained was reacted with N-bromosuccinimide in the presence of benzoyl peroxide using the procedure described in European Patent Specification No. 0284338 to give 6-bromomethyl-2,7-dimethyl-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one in 57% yield, m.p. 149°-152° C.

reactant | 2,6,7-Trimethyl-3,4-dihydroquinazolin-4-one | CC1=NC2=CC(=C(C=C2C(N1)=O)C)C | C11H12N2O
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | 2,6-dimethyl-3,4-dihydroquinazolin-4-one | CC1=NC2=CC=C(C=C2C(N1)=O)C | C10H10N2O
reactant | 3-(pivaloyloxymethyl)-2,6,7-trimethyl-3,4-dihydroquinazolin-4-one | C(C(C)(C)C)(=O)OCN1C(=NC2=CC(=C(C=C2C1=O)C)C)C | C17H22N2O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 6-bromomethyl-2,7-dimethyl-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one | 57% yield | BrCC=1C=C2C(N(C(=NC2=CC1C)C)COC(C(C)(C)C)=O)=O | C17H21BrN2O3
